US07307076B2
a) 7-benzyloxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one
150 mg (0.51 mmol) 7-benzyloxy-5-oxiranyl-1H-quinolin-2-one and 208 mg (1.2 mmol) 2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamine are combined with 1 mL isopropanol and irradiated with microwaves for a total of 1 hour at 135° C. Then the reaction mixture is combined with ethyl acetate and 0.5 molar tartaric acid, whereupon a precipitate is formed. The organic phase is discarded and the solid and the aqueous phase are extracted with dichloromethane/methanol. The combined organic phases are evaporated down and combined with 8 mL ethyl acetate. The insoluble solid is suction filtered and dried. Yield: 130 mg (54%).

reactant | 7-benzyloxy-5-oxiranyl-1H-quinolin-2-one | 0.51 mmol, 150 mg | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C1OC1 | C18H15NO3
reactant | 2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamine | 1.2 mmol, 208 mg | COC1=CC=C(C=C1)CC(C)(C)N | C11H17NO
reactant | isopropanol | 1 mL | C(C)(C)O | C3H8O
reactant | tartaric acid | 0.5 molar | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-benzyloxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CNC(CC1=CC=C(C=C1)OC)(C)C)O | C29H32N2O4
